data/specific_train_final.csv
"CCCC(C)C[O:20][O:21]N=O>>CCCC(C)C[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCOC(C)(C)C[O:21][O:20][O].[N+](=O)[O-]>>CCOC(C)(C)C[O:21].[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:15][O:14][O:13][CH2:12][CH:10]([C:2]([CH3:1])([CH2:3][O:4][N+:5](=[O:7])[O-:6])[O:8][O:9])[OH:11]>>[H:15][O:9][O:8][C:2]([CH3:1])([CH2:3][O:4][N+:5](=[O:7])[O-:6])[CH:10]([CH2:12][O:13][O:14])[OH:11] 9-9,15; 15,14-9,15; 14,15-14",Room Temperature,Propagation,abstraction
"C(C(O[O:20])(Cl)Cl)(O)(Cl)Cl.[N+](=O)([O-])[O:10]>>C(C(O[O:20][O:10][N+](=O)[O-])(Cl)Cl)(O)(Cl)Cl 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(=O)C([CH:10]C1(C(O1)(C)C=O)C)O.[O:20][O]>>CC(=O)C([CH:10](C1(C(O1)(C)C=O)C)[O:20][O])O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][O:21][O].C(C(O[N+](=O)[O-])Cl)O[O:10]>>[H:20][O:10]OCC(O[N+](=O)[O-])Cl.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"C[C:20](CO)([C:21]=O)OO>>C[C:20](CO)OO.[C:21]=O 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCCCCC[O:20][O:21]N=O>>CCCCCC[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"C[C:21]1=[CH:20]CC2CC1C2(C)C.[N+](=O)([O-])[O:10]>>C[C:21]1C2CC(C2(C)C)C[CH:20]1[O:10][N+](=O)[O-] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CCC(COC(=O)C)O[O:20].[N+](=O)([O-])[O:10]>>CCC(COC(=O)C)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:20][O:21][CH:22]C1C(O1)C=CC(=O)CCC.[O:10][O]>>[H:20][O:10][O].CCCC(=O)C=CC1C(O1)[CH:22]=[O:21] 10-10,20;20,21-10,20;20,21-21,22;22-21,22",Room Temperature,Termination,abstraction
"CC(C)C12C=C[CH:10]C(C1O)OO2.[O:20][O]>>CC(C)C12C=C[CH:10](C(C1O)OO2)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(=O)/C=C\C1C(O1)[C:10]=O.O.[O:20][O]>>CC(=O)/C=C\C1C(O1)[C:10](=O)[O:20][O].O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC1=C(C=CC=C1)C[O:20].[N+:10](=O)[O-]>>CC1=C(C=CC=C1)C[O:20][N+:10](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCC(C)CO[O:20].[N+](=O)([O-])[O:10]>>CCC(C)CO[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:9][C:8](=[C:10]([H:11])[O:12])[C:2]([CH3:1])([CH2:5][O:6][OH:7])[O:3][OH:4]>>[H:9][C:8]([C:10](=[O:12])[H:11])[C:2]([CH3:1])([CH2:5][O:6][OH:7])[O:3][OH:4] 12-12,10; 10,8-12,10; 10,8-8",Room Temperature,Propagation,resonance
"[H:20][C:21](C)(C)C(C)C.[Cl:10]>>[H:20][Cl:10].CC(C)[C:21](C)C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCC[O:20][O:21]N=O>>CCC[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[CH3:11][C:3]([CH2:2][OH:1])[CH:4]([CH2:5][OH:6])[O:7][N+:8](=[O:10])[O-:9].[O:12][O:13]>>[CH3:11][C:3]([CH2:2][OH:1])([CH:4]([CH2:5][OH:6])[O:7][N+:8](=[O:10])[O-:9])[O:12][O:13] 12-3,12;3-3,12",Room Temperature,Termination,recombine
"CCC(C)(CO)O[O:20].[N+](=O)([O-])[O:10]>>CCC(C)(CO)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C[C:21]1=[CH:20]C(=C(C=C1)O)C.[N+](=O)([O-])[O:10]>>C[C:21]1C=CC(=C([CH:20]1[O:10][N+](=O)[O-])C)O 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[H:13][CH:12]([CH:7]([C:3]([CH3:4])([CH2:2][OH:1])[O:5][O:6])[O:8][N+:9](=[O:11])[O-:10])[OH:14]>>[H:13][O:6][O:5][C:3]([CH3:4])([CH2:2][OH:1])[CH:7]([CH:12][OH:14])[O:8][N+:9](=[O:11])[O-:10] 12,13-12;12,13-6,13;6-6,13",Room Temperature,Propagation,abstraction
"[CH3:1][CH2:2][CH2:3][C:4]([CH3:5])([CH3:6])[O:7][O:8][O:9][N+:10](=[O:11])[O-:12]>>[CH3:1][CH2:2][CH2:3][C:4]([CH3:5])([CH3:6])[O:7][O:8][O:9].[N+:10](=[O:11])[O-:12] 9,10-10; 9,10-9",Room Temperature,Initiation,homolyze
"[H:4][C:3](=[CH:5][OH:6])[C:2]([CH3:1])([CH2:9][O:10][N+:11](=[O:13])[O-:12])[O:7][O:8]>>[H:4][C:3](=[CH:5][OH:6])[C:2]([CH3:1])[CH2:9][O:10][N+:11](=[O:13])[O-:12].[O:7][O:8] 7,2-7; 7,2-2",Room Temperature,Initiation,homolyze
[CH3:9][C:8]1([CH:5]2[CH2:6][CH:7]1[C:2]([CH:3]([CH2:4]2)[OH:11])([CH3:12])[O:1])[CH3:10].[N:14](=[O:15])[O:13]>>[CH3:9][C:8]1([CH:5]2[CH2:6][CH:7]1[C:2]([CH:3]([CH2:4]2)[OH:11])([CH3:12])[O:1])[CH3:10].[N+:14](=[O:15])[O-:13] 14-13,Room Temperature,Propagation,ha resonance
"CCCC12C=CC(C(C1O)OO2)O[O:20].[N+](=O)([O-])[O:10]>>CCCC12C=CC(C(C1O)OO2)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CCC(COC(=O)C)[O:20][O:21][O].[N+](=O)[O-]>>CCC(COC(=O)C)[O:20].[N+](=O)[O-].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCC(C(C)[O:20][O:21][O])O[N+](=O)[O-]>>CCC(C(C)[O:20])O[N+](=O)[O-].[O:21][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCC(=O)[CH:20]C(C1C(O1)(C)C=O)O.[O:10][O]>>CCC(=O)[CH:20](C(C1C(O1)(C)C=O)O)[O:10][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC(CCl)(O[O:20])Cl.[N+](=O)([O-])[O:10]>>CC(CCl)(O[O:20][O:10][N+](=O)[O-])Cl 10-10,20;20-10,20",Room Temperature,Termination,recombine
